US07211576B2
Ethyl-[1-(4-nitro-phenyl)-pyrrolidin-3-yl]-amine
The compound was prepared from 3-ethylamino-pyrolidine (TCI-US) and 4-fluoro-nitrobenzene (Aldrich) following the procedure used in Example 1. MS (m+H)+: 236.

reactant | 3-ethylamino-pyrolidine | C(C)NC1CNCC1 | C6H14N2
reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | Ethyl-[1-(4-nitro-phenyl)-pyrrolidin-3-yl]-amine | C(C)NC1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
